US06274737B1
(1RS, 2SR, 3SR)-1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
To a solution of ethyl (RS)-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate (45 mg, 0.11 mmol) in EtOH (3 ml) was added 10% palladium on activated carbon (45 mg). The resulting suspension was shaken on a Parr hydrogenator at 50 psi H2 overnight, then was filtered through a pad of Celite. The filtrate was concentrated under reduced pressure to afford the title compound (43 mg, 94%), which was used without further purification.

reactant | ethyl (RS)-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate | 0.11 mmol, 45 mg | COC=1C=C(C=CC1)C1C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC | C26H22O5
solvent | EtOH | 3 ml | CCO | C2H6O
catalyst | palladium on activated carbon | 45 mg | [Pd] | Pd
product | 1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | 43 mg, 94% | COC=1C=C(C=CC1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
